US08541588B2
2-fluoro-5-methyl-4-[2-pyridazin-4-yl-4-(trifluoromethoxy)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide
2-pyridazin-4-yl-4-(trifluoromethoxy)phenol (Preparation 888, 30 mg, 0.12 mmol) was taken up in dimethyl sulfoxide (1 mL, 20 mmol) and potassium carbonate (30 mg, 0.22 mmol) added, followed by N-(2,4-dimethoxybenzyl)-2,4-difluoro-5-methyl-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (Preparation 889, 51.7 mg, 0.117 mmol). The reaction was heated at 60° C. for 72 hours. The reaction was cooled and diluted with 1N HCl. The resulting precipitate was collected by filtration. The solid was dissolved in methylene chloride (1.0 mL, 16 mmol) and dried over magneisum sulfate. The solution was then treated with trifluoroacetic acid (45 uL, 0.58 mmol) and stirred for 2 hours. The reaction mixture was concentrated in vacuo. The residue was purified by reverse phase HPLC. Product fractions were combined and the solvent removed in vacuo to give a residue. The product was purified a second time by column chromatography (4 g silica gel column, 0 to 10% methanol in methylene chloride gradient elution). Product fractions were combined and concentrated in vacuo to give 11.2 mg of colorless glass.

reactant | 2-pyridazin-4-yl-4-(trifluoromethoxy)phenol | 0.12 mmol, 30 mg | N1=NC=C(C=C1)C1=C(C=CC(=C1)OC(F)(F)F)O | C11H7F3N2O2
reactant | dimethyl sulfoxide | 20 mmol, 1 mL | CS(=O)C | C2H6OS
reactant | potassium carbonate | 0.22 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2,4-dimethoxybenzyl)-2,4-difluoro-5-methyl-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 0.117 mmol, 51.7 mg | COC1=C(CN(S(=O)(=O)C2=C(C=C(C(=C2)C)F)F)C=2SC=NN2)C=CC(=C1)OC | C18H17F2N3O4S2
reactant | methylene chloride | 16 mmol, 1.0 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | 0.58 mmol, 45 uL | FC(C(=O)O)(F)F | C2HF3O2
solvent | HCl | 1N | Cl | ClH
product | 2-fluoro-5-methyl-4-[2-pyridazin-4-yl-4-(trifluoromethoxy)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 11.2 mg | FC1=C(C=C(C(=C1)OC1=C(C=C(C=C1)OC(F)(F)F)C1=CN=NC=C1)C)S(=O)(=O)NC=1SC=NN1 | C20H13F4N5O4S2
